US05962529
[Isobutyl-(5-methyl-3-methylcarbamoyl-hexanoyl)-amino]-acetic acid benzyl ester
To an ice-cooled solution of 5-methyl-3-methylcarbamoyl-hexanoic acid 2,3,4,5,6-pentafluorophenyl ester (350 mg, 0.99 mmol) in DMF (5 ml) was added isobutylamino-acetic acid benzyl ester (110 mg, 0.49 mmol) with stirring. The reaction mixture was allowed to warm to room temperature and stirred for 2 days then for 3 h at 50° C. The solvent was removed under reduced pressure, the residue was dissolved in ethyl acetate and the solution was washed successively with 1M HCl, 1M Na2CO3 and brine. The organic layer was dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography (silica gel, 50→100% ethyl acetate in hexane) to give the title compound as a colorless oil (130 mg, 70%). 1H-NMR; δ (CDCl3, rotamers), 7.33 (5H, m), 6.17 (1H, m), 5.15 (1H, m), 4.21 (1H, m), 3.91 (1H, m), 3.41-2.95 (2H, br m), 2.81 (2H, m), 2.75 (3H, m), 2.32 (1H, m), 1.91-1.40 (3H, br m), 1.28-1.05 (1H, m) and 0.85 (12H, m).

reactant | 5-methyl-3-methylcarbamoyl-hexanoic acid 2,3,4,5,6-pentafluorophenyl ester | 0.99 mmol, 350 mg | FC1=C(C(=C(C(=C1F)F)F)F)OC(CC(CC(C)C)C(NC)=O)=O | C15H16F5NO3
reactant | isobutylamino-acetic acid benzyl ester | 0.49 mmol, 110 mg | C(C1=CC=CC=C1)OC(CNCC(C)C)=O | C13H19NO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | [Isobutyl-(5-methyl-3-methylcarbamoyl-hexanoyl)-amino]-acetic acid benzyl ester | 130 mg, 70% | C(C1=CC=CC=C1)OC(CN(C(CC(CC(C)C)C(NC)=O)=O)CC(C)C)=O | C22H34N2O4
